US06326510B1
(b) 3-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]benzoic acid
210 mg (6.8 mmol) of sodium hydride (80% in oil) and 15 ml of THF are introduced into a round-bottomed flask under a stream of nitrogen. 1 ml (6.8 mmol) of diethyl malonate is then added dropwise and the mixture is stirred until the evolution of gas has ceased. This solution is introduced dropwise into a mixture of 2.6 g (6.2 mmol) of allyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]-benzoate, 50 ml of THF and 400 mg of tetrakis-(triphenylphosphine)palladium(0) and the mixture is stirred at room temperature for three hours. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of ethyl ether and hexane (50/50). After evaporating the solvents, 1.5 g (64%) of 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]-benzoic acid, with a melting point of 134-5° C., are collected.

reactant | sodium hydride | 6.8 mmol, 210 mg | [H-].[Na+]
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | diethyl malonate | 6.8 mmol, 1 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | allyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]-benzoate | 6.2 mmol, 2.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)OC=1C=C(C(=O)OCC=C)C=CC1)C | C27H30O4
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)OC=1C=C(C(=O)O)C=CC1)C | C24H26O4
